US09034866B2
Synthesis of 9-fluoro-10-[(3R)-3-hydroxy-3-(5-methyl-1,2,4-oxadiazol-3-yl)but-1-ynyl]-3-(3-methyl-1H-pyrazol-5-yl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide
10-bromo-9-fluoro-3-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with (2-tert-butoxycarbonyl-5-methyl-pyrazol-3-yl)boronic acid similarly to as described in Example 4 to produce crude 10-bromo-9-fluoro-3-(3-methyl-1H-pyrazol-5-yl)-5,6dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide. 10-bromo-9-fluoro-3-(3-methyl-1H-pyrazol-5-yl)-5,6dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with (2R)-2-(5-methyl-1,2,4-oxadiazol-3-yl)but-3-yn-2-ol via General Procedure E to afford 5.8 mg (6.6%) 9-fluoro-10-[(3R)-3-hydroxy-3-(5-methyl-1,2,4-oxadiazol-3-yl)but-1-ynyl]-3-(3-methyl-1H-pyrazol-5-yl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide following reverse phase purification. M+1=478.

reactant | 10-bromo-9-fluoro-3-(3-methyl-1H-pyrazol-5-yl)-5,6dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C3=CC(=NN3)C)C1)F | C16H13BrFN5O2
reactant | (2R)-2-(5-methyl-1,2,4-oxadiazol-3-yl)but-3-yn-2-ol | CC1=NC(=NO1)[C@@](C)(C#C)O | C7H8N2O2
product | 9-fluoro-10-[(3R)-3-hydroxy-3-(5-methyl-1,2,4-oxadiazol-3-yl)but-1-ynyl]-3-(3-methyl-1H-pyrazol-5-yl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | FC1=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C3=CC(=NN3)C)C=C1C#C[C@](C)(C1=NOC(=N1)C)O | C23H20FN7O4
